* C:\Users\Mamadou KANE\Music\Polytech_So\S6\Electronique\Sujet TP et fichiers-20260305\Simulation\Simulation_A1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 0 N002 1k
D N001 N002 DI_1N4003
Vi N001 0 0
.model D D
.lib C:\Users\Mamadou KANE\AppData\Local\LTspice\lib\cmp\standard.dio
.MODEL DI_1N4003 D  ( IS=76.9p RS=42.0m BV=200 IBV=5.00u
+ CJO=39.8p  M=0.333 N=1.45 TT=4.32u )
.dc VI -1 3 0.1
.backanno
.end
