* H:\Mon Drive\2025-2026_polytech_sorbonne\S6\UE-Electronique\Composants_et_circuit_microelectrique\TP\Sujet_TP_YEK\Simulation\Simu_A\Simu_A.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vo 0 1k
Vi Vi 0 SINE(0.6 50m) AC 1
D1 Vi Vo D
.model D D
.lib C:\Users\elkat\AppData\Local\LTspice\lib\cmp\standard.dio
.MODEL DI_1N4003 D  ( IS=76.9p RS=42.0m BV=200 IBV=5.00u
+ CJO=39.8p  M=0.333 N=1 TT=4.32u )
* .ac lin 3 10 100
.op
.backanno
.end
