* H:\Mon Drive\2025-2026_polytech_sorbonne\S6\UE-Electronique\Composants_et_circuit_microelectrique\TP\Sujet_TP_YEK\Simulation\Simu_B_b\Simu_B_b.asc
* Generated by LTspice 26.0.1 for Windows.
D2 Vo N001 D1N4733
R1 Vo Vi 1k
D1 0 N001 D1N4733
V1 Vi 0 SINE(0 7.5 100)
.model D D
.lib C:\Users\elkat\AppData\Local\LTspice\lib\cmp\standard.dio
.model D1N4733 D(Is=1.214f Rs=1.078 Ikf=0 N=1 Xti=3 Eg=1.11
+ Cjo=185p M=.3509 Vj=.75 Fc=.5 Isr=2.601n Nr=2 Bv=5.1 Ibv=.70507
+ Nbv=.74348 Ibvl=4.8274m Nbvl=6.7393 Tbv1=176.471u)
.tran 0.01
.backanno
.end
