* H:\Mon Drive\2025-2026_polytech_sorbonne\S6\UE-Electronique\Composants_et_circuit_microelectrique\TP\Sujet_TP_YEK\Simulation\Simu_D\Simu_D.asc
* Generated by LTspice 26.0.1 for Windows.
Vbe Vbe 0 AC 1
Vce Vce 0 5 AC 1
Q1 Vce Vbe 0 0 CA3046
.model NPN NPN
.model PNP PNP
.lib C:\Users\elkat\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc Vce 0 2 0.1 Vbe list 0.6 0.7 0.8
* .dc Vbe 0 0.8 0.1
.model CA3046 NPN
+ (IS=10.0E-15 XTI=3.000E+00 EG=1.110E+00 VAF=1.00E+02
+ VAR=1.000E+02 BF=145.7E+00 ISE=114.286E-15 NE=1.480E+00
+ IKF=46.700E-03 XTB=0.000E+00 BR=0.100E+00 ISC=10.005E-15
+ NC=2.000E+00 IKR=10.00E-03 RC=10.000E+00 CJC=991.71E-15
+ MJC=0.333 VJC=0.7500 FC=5.000E-01 CJE=1.02E-12
+ MJE=0.336 VJE=0.7500 TR=10.000E-09 TF=277.01E-12
+ ITF=1.750E+00 XTF=309.38E+00 VTF=16.37E+00 PTF=0.000E+00
+ RE=0.0 RB=0.0)
.backanno
.end
